US07122543B2
Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate
To a solution of methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate (540 mg, 1.4361 mmol) in anhydrous methylene chloride (30 ml) were added 4-dimethylaminopyridine (263 mg, 2.1557 mmol), triethylamine (290 mg, 2.8712 mmol) and trifluoromethanesulfonic acid anhydride (607 mg, 2.1524 mmol) and the mixture was stirred for 3 hours under cooling with ice. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to give the title compound (701 mg, 1.3799 mmol, 96%).

reactant | methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 1.4361 mmol, 540 mg | COC=1C(=C(CC=2C(=C(C(=O)OC)C=CC2)O)C(=C(C1OC)OC)OC)C | C20H24O7
reactant | triethylamine | 2.8712 mmol, 290 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 2.1524 mmol, 607 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.1557 mmol, 263 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 1.3799 mmol, 701 mg, 96% | COC=1C(=C(CC=2C(=C(C(=O)OC)C=CC2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
